US08258160B2
Synthesis of N-benzyl-4-methyl-2-(4-(pyridin-2-yl)-1H-1,2,3-triazol-1-yl)thiazole-5-carboxamide
Following the procedure as described in Example 10, making variations as necessary to replace phenylacetylene with 2-ethynylpyridine to react with 2-azido-N-benzyl-4-methylthiazole-5-carboxamide, the title compound was obtained as a white solid in 34% yield: mp 184-187° C. (dichloromethane/hexanes); 1H NMR (300 MHz, CDCl3) δ 8.96 (s, 1H), 8.65-8.63 (m, 1H), 8.21-8.19 (m, 1H), 7.84-7.79 (m, 1H), 7.39-7.27 (m, 6H), 6.13 (t, J=6.0 Hz, 1H), 4.64 (d, J=6.0 Hz, 2H), 2.71 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 160.9, 153.3, 149.8, 149.2, 149.0, 138.8, 137.4, 136.9, 128.9, 127.9, 127.8, 124.8, 123.5, 120.7, 119.4, 44.4, 17.5; MS (ES+) m/z 377.3 (M+1).

reactant | phenylacetylene | C1(=CC=CC=C1)C#C | C8H6
reactant | 2-ethynylpyridine | C(#C)C1=NC=CC=C1 | C7H5N
reactant | 2-azido-N-benzyl-4-methylthiazole-5-carboxamide | N(=[N+]=[N-])C=1SC(=C(N1)C)C(=O)NCC1=CC=CC=C1 | C12H11N5OS
product | N-benzyl-4-methyl-2-(4-(pyridin-2-yl)-1H-1,2,3-triazol-1-yl)thiazole-5-carboxamide | 34% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1N=NC(=C1)C1=NC=CC=C1)C | C19H16N6OS
